US08124636B2
Step E] (rac)-2-(2-Chloro-benzyl)-7a-methyl-hexahydro-pyrrolo[1,2-c]imidazol-3-one
To a cold (0° C.) solution of (2-chloro-benzyl)-((rac)-2-methyl-pyrrolidin-2-ylmethyl)-amine (0.5 g, 1 eq) in DCM (15 mL) was added a solution of triphosgene (0.5 eqv) in DCM (5 mL) over a period of 5 minutes followed by the addition of triethylamine (3 eq). The reaction mixture was allowed to stir for 4 h. After the completion of the reaction on TLC, the reaction mixture was quenched with 1M HCl (10 mL) and extracted with DCM (3×50 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated using rotary evaporator to give sticky crude, which was then purified with column chromatography (1-2% Methanol:DCM, Mesh Size-100-200 silica, Diameter of column—2.5 cm, Height of silica—approx. 5 inch) to afford the desired product (rac)-2-(2-chloro-benzyl)-7a-methyl-hexahydro-pyrrolo[1,2-c]imidazol-3-one as white solid (22-70%). MS (ES+): 265.5 (MH+))

reactant | (2-chloro-benzyl)-((rac)-2-methyl-pyrrolidin-2-ylmethyl)-amine | 0.5 g, 1 eq | ClC1=C(CNCC2(NCCC2)C)C=CC=C1 | C13H19ClN2
reactant | triphosgene | 0.5 eqv | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | triethylamine | 3 eq | C(C)N(CC)CC | C6H15N
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (rac)-2-(2-chloro-benzyl)-7a-methyl-hexahydro-pyrrolo[1,2-c]imidazol-3-one | 22-70% | ClC1=C(CN2C(N3C(C2)(CCC3)C)=O)C=CC=C1 | C14H17ClN2O
